US06559145B2
Methyl 2-((Methylsulfonyl)amino]thiophene-3-carboxylate [BS.2]
To a stirring solution of methyl-2-aminothiophene carboxylate (10 g) in CH2Cl2 (350 ml) at 0° C. is added triethylamine (13.51 g). Methanesulfonyl chloride (15.28 g) is then added dropwise at 0° C. over 15 min. The mixture is stirred for 16 h allowing the solution to warm to ambient temperature. The organic layer is washed with water (100 ml) and dried over MgSO4. The solvent is removed in vacuo to afford a crude residue. This material is dissolved in MeOH (400 ml) and a solution of NaOMe in methanol is added (2.92 g Na metal in 150 ml MeOH) at ambient temperature. The resulting heterogeneous mixture is stirred at ambient temperature overnight. The mixture is concentrated to approximately 150 mL volume, cooled to 0° C., and filtered to afford 14.5 g (88%) of the title compound as a tan solid (Na salt). Physical characteristics: 1H NMR (DMSO-d6) δ 2.68, 3.61, 6.23, 6.91; IR (diffuse reflectance) 1683, 1507, 1464, 1316, 1248, 1233, 1222, 1190, 1150, 1124, 1075, 979, 787, 763, 685 cm−1; MS (CI) m/z 258 (MH+).

reactant | methyl-2-aminothiophene carboxylate | 10 g | COC(=O)C1(SC=CC1)N | C6H9NO2S
reactant | triethylamine | 13.51 g | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 15.28 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | NaOMe | C[O-].[Na+]
reactant | MeOH | 400 ml | CO | CH4O
reactant | MeOH | 150 ml | CO | CH4O
solvent | CH2Cl2 | 350 ml | C(Cl)Cl | CH2Cl2
product | Methyl 2-((Methylsulfonyl)amino]thiophene-3-carboxylate | 14.5 g, 88% | CS(=O)(=O)NC=1SC=CC1C(=O)OC | C7H9NO4S2
